US07259177B2
Analogously to the building block synthesis of 4-iodomethyl-5-phenyl-2-p-tolyloxazole, diacetylmonoxime and 3-trifluoromethoxybenzaldehyde gave 4-iodomethyl-5-methyl-2-(3-trifluoromethoxyphenyl)oxazole.

reactant | 4-iodomethyl-5-phenyl-2-p-tolyloxazole | ICC=1N=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C | C17H14INO
reactant | diacetylmonoxime | C/C(=N\O)/C(=O)C | C4H7NO2
reactant | 3-trifluoromethoxybenzaldehyde | FC(OC=1C=C(C=O)C=CC1)(F)F | C8H5F3O2
product | 4-iodomethyl-5-methyl-2-(3-trifluoromethoxyphenyl)oxazole | ICC=1N=C(OC1C)C1=CC(=CC=C1)OC(F)(F)F | C12H9F3INO2
